US09238647B2
Step A: tert-butyl 5,6-dichloronicotinate
To a solution of 5,6-dichloronicotinic acid (25.0 g, 130 mmol) in tetrahydrofuran (400 mL) at 0° C. was added dimethylaminopyridine (79.5 g, 65.1 mmol). A solution of di-tert-butyl dicarbonate (31.3 g. 143 mmol) in THF (10 mL) was added dropwise and the mixture was allowed to warm to ambient temperature. After 18 h, the mixture was concentrated. Saturated aqueous sodium bicarbonate was added and the mixture was extracted with ethyl acetate (3×). The combined organic layer was washed with brine, dried over sodium sulfate, filtered and concentrated: LC-MS [M+1-16]=233.0.

reactant | 5,6-dichloronicotinic acid | 130 mmol, 25.0 g | ClC=1C(=NC=C(C(=O)O)C1)Cl | C6H3Cl2NO2
reactant | dimethylaminopyridine | 65.1 mmol, 79.5 g | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | di-tert-butyl dicarbonate | 143 mmol, 31.3 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 400 mL | O1CCCC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | tert-butyl 5,6-dichloronicotinate | ClC=1C(=NC=C(C(=O)OC(C)(C)C)C1)Cl | C10H11Cl2NO2
